US04734124
Under a dry argon atmosphere 2.7 grams of a 60% suspension of sodium hydride in oil (0.068 mole of sodium hydride) was waashed with petroleum ether to remove the oil. To the washed sodium hydride was added 50 ml of N,N-dimethylformamide (DMF), and the mixture was stirred. A solution of 7-fluoro-2H-1,4-benzoxazin-3 (4H)-one (10.0 grams, 0.060 mole) in 50 ml of DMF was added. This mixture was warmed to approximately 40° C. for 30 minutes, and then was cooled to room temperature. A solution of 11.2 grams (0.066 mole) of 1-iodopropane in 10 ml of DMF was added, and the mixture was stirred at room temperature for approximately 18 hours. The reaction mixture was poured into dilute hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 10.0 grams of 7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-one as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | sodium hydride | 0.068 mole | [H-].[Na+]
reactant | 7-fluoro-2H-1,4-benzoxazin-3 (4H)-one | 0.060 mole, 10.0 grams | FC1=CC2=C(NC(CO2)=O)C=C1 | C8H6FNO2
reactant | 1-iodopropane | 0.066 mole, 11.2 grams | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 50 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
product | 7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-one | 10.0 grams | FC1=CC2=C(N(C(CO2)=O)CCC)C=C1 | C11H12FNO2
